US04728355
To a stirred solution of 0.8 gram of 4-amino-6-chloro-pyridazine in 30 ml of dimethylformamide is added 0.2 gram of 1,4-diazabicyclo[2.2.2]octane, followed by 0.6 gram of 1-methylethyl isocyanate. The reaction mixture is stirred at ambient temperature for 18 hours, then at 60° C. for six hours. The majority of the dimethylformamide is removed under reduced pressure, and the residue is slurried in water. The resultant solid is collected by filtration and dried to yield N-(6-chloro-4-pyridazinyl)-N'-(1-methylethyl)urea.

reactant | 4-amino-6-chloro-pyridazine | 0.8 gram | NC1=CN=NC(=C1)Cl | C4H4ClN3
reactant | 1,4-diazabicyclo[2.2.2]octane | 0.2 gram | N12CCN(CC1)CC2 | C6H12N2
reactant | 1-methylethyl isocyanate | 0.6 gram | CC(C)N=C=O | C4H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-(6-chloro-4-pyridazinyl)-N'-(1-methylethyl)urea | ClC1=CC(=CN=N1)NC(=O)NC(C)C | C8H11ClN4O
